US07112697B1
1-Methoxy-4-(phenylthio)benzene (entry 4, Table 2):
The general procedure was used to convert iodobenzene and 4-methoxybenzenethiol to the title product. Purification by flash chromatography (hexane/CH2Cl2 [3:1] as the eluent) gave the analytically pure product as a clear oil (410 mg, 95% yield). 1H NMR (300 MHz, CDCl3) δ 7.27 (dt, J=8.85, 2H; Ha, Ha′), 7.12–6.96 (m, 5H; HC, Hc′, Hd, Hd′, He), 6.75 (dt, 2H; Hb, Hb′), 3.67 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 159.76 (C4), 138.56 (C8), 135.32 (C2, C6), 128.86 (C9, C13), 128.10 (C10, C12), 125.68 (C11), 124.19 (C1), 114.92 (C3, C5), 55.27 (C7). Anal. Calcd. for C13H12OS: C, 72.19; H, 5.59; S, 14.82; Found C, 72.26; H, 5.59; S, 14.65.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 4-methoxybenzenethiol | COC1=CC=C(C=C1)S | C7H8OS
product | 1-Methoxy-4-(phenylthio)benzene | COC1=CC=C(C=C1)SC1=CC=CC=C1 | C13H12OS
